US03976653
A mixture of 1.0 g. of 2-(p-methoxybenzyl)-3-isopropylidenepiperidine hydrochloride, 1.1 g. of powdered potassium carbonate, 10 ml. of dimethyl sulfoxide, and 0.4 ml. of p-fluoronitrobenzene was stirred and heated on a steam bath for 1 hour. The reaction mixture was then poured into water and the water was decanted from the precipitated gum. The gum was washed with several portions of water and then taken up in diethyl ether, and the ether was washed with several portions of water. The ether was dried and filtered, and the filtrate was evaporated to dryness under reduced pressure to yield 1-(p-nitrophenyl)-2-(p-methoxybenzyl)-3-isopropylidenepiperidine as a residue. Neither the residue nor its hydrochloride could be induced to crystallize, although only one component could be observed on thin layer chromatographic analysis using several developing systems on both silica gel and alumina. The nuclear magnetic resonance spectrum (CDCl3) of the crude residue showed: 439 (A2B2), 410, (A2B2), 295 (t,1,J=7 cps), 222 (a,3), 172 (d,2, J=7 cps), 95, (s,3), 76 (d,3,J=1-2 cps). The ultraviolet spectrum (95% ethanol) showed: 272s (ε4100), 286s (ε3500), 400 m (ε16300); lit, p-methylanisole 277 (ε2100), 284 (ε1800); N,N-dimethyl-p-nitroaniline 395 (ε20000).

reactant | 2-(p-methoxybenzyl)-3-isopropylidenepiperidine hydrochloride | Cl.COC1=CC=C(CC2NCCCC2=C(C)C)C=C1
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | p-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | water | O | H2O
product | 1-(p-nitrophenyl)-2-(p-methoxybenzyl)-3-isopropylidenepiperidine | [N+](=O)([O-])C1=CC=C(C=C1)N1C(C(CCC1)=C(C)C)CC1=CC=C(C=C1)OC | C22H26N2O3
